US07064124B2
N-(2-Morpholinopyridin-3-yl)-5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzamide
3-Amino-2-morpholinopyridine (0.269 g, 1.500 mmol), triethylamine (0.197 g, 1.950 mmol) and 2-chloro-1,3-dimethylimidazolinium chloride (0.165 g, 0.975 mmol) were added to a methylene chloride solution (100 ml) of 5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoic acid (0.281 g, 0.750 mmol) and the resulting solution was stirred at room temperature for 12 hours. The reaction solution was poured into ice water and then extracted with methylene chloride. The extract was washed with water and then dried, and the solvent was removed by distillation. The obtained residue was purified by preparative thin-layer chromatography (ethyl acetate:hexane=2:1) to obtain the titled compound (0.249 g, 0.465 mmol, 62%).

reactant | 3-Amino-2-morpholinopyridine | 1.500 mmol, 0.269 g | NC=1C(=NC=CC1)N1CCOCC1 | C9H13N3O
reactant | triethylamine | 1.950 mmol, 0.197 g | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1,3-dimethylimidazolinium chloride | 0.975 mmol, 0.165 g | [Cl-].ClC1[NH+](CCN1C)C
reactant | 5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoic acid | 0.750 mmol, 0.281 g | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)O)C1)OC(C)=O)C)=O | C19H18O8
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-(2-Morpholinopyridin-3-yl)-5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzamide | 0.465 mmol, 0.249 g, 62% | O1CCN(CC1)C1=NC=CC=C1NC(C1=C(C=CC(=C1)CC=1C(C(=C(C(C1C)=O)OC)OC)=O)OC(C)=O)=O | C28H29N3O8
